US09422341B2
Under ice cooling, commercially available D-alanine (6.00 g, 73.5 mmol) was dissolved in an aqueous solution (225 mL) of sodium carbonate (21.45 g, 202 mmol), and a dioxane (60 mL) solution of benzyl chloroformate (Z—Cl) (10.5 mL, 73.5 mmol) was slowly added dropwise thereto. After completion of the dropwise addition, the reaction liquid was returned to room temperature, and continuously stirred overnight. The reaction liquid was transferred to a separating funnel, and excess Z—Cl was removed by diethyl ether extraction. Citric acid was added to the aqueous layer to adjust the pH to 3, and then the mixture was extracted three times with ethyl acetate. The combined organic layer was washed once with a saturated saline solution, and the organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure, and then the concentrated residue was recrystallized by ethyl acetate-hexane to obtain a colorless crystal Z-D-alanine (13.77 g, 91.6%).

reactant | D-alanine | 73.5 mmol, 6.00 g | N[C@H](C)C(=O)O | C3H7NO2
reactant | sodium carbonate | 202 mmol, 225 mL, 21.45 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | benzyl chloroformate | 73.5 mmol, 10.5 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | dioxane | 60 mL | O1CCOCC1 | C4H8O2
product | Z-D-alanine | 13.77 g, 91.6% | C[C@H](C(=O)O)NC(=O)OCC1=CC=CC=C1 | C11H13NO4
